US08466186B2
N-{3-[5-Cyano-6-(3-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]-4-trifluoromethoxy-benzyl}-2,2-dimethyl-propionamide
A mixture of N-(3-isothiocyanato-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide (135 mg, 0.406 mmol), 4,5-diamino-2-(3-trifluoromethyl-piperidin-1-yl)benzonitrile (115 mg, 0.406 mmol) and DMF (2 mL) was stirred at rt for 4 h. EDC (101 mg, 0.527 mmol) was added and mixture was stirred at rt overnight. The mixture was treated with water and extracted with Et2O. Concentration and purification by column chromatography gave an oil. The oil was treated with CHCl3 and the precipitate was collected by filtration.

reactant | N-(3-isothiocyanato-4-trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | 0.406 mmol, 135 mg | N(=C=S)C=1C=C(CNC(C(C)(C)C)=O)C=CC1OC(F)(F)F | C14H15F3N2O2S
reactant | 4,5-diamino-2-(3-trifluoromethyl-piperidin-1-yl)benzonitrile | 0.406 mmol, 115 mg | NC1=CC(=C(C#N)C=C1N)N1CC(CCC1)C(F)(F)F | C13H15F3N4
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | EDC | 0.527 mmol, 101 mg
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-{3-[5-Cyano-6-(3-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]-4-trifluoromethoxy-benzyl}-2,2-dimethyl-propionamide | C(#N)C1=CC2=C(NC(=N2)NC=2C=C(CNC(C(C)(C)C)=O)C=CC2OC(F)(F)F)C=C1N1CC(CCC1)C(F)(F)F | C27H28F6N6O2
